US06716851B2
4-(4-Chloro-2,5-dimethoxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 4-chloro-2,5-dimethoxyaniline (54 mg, 0.290 mmol) similar to Example 117 and isolated as a brown solid (55 mg, 68%). 1H NMR (CDCl3): 8.78 (dd, J=1.8, 4.8 Hz, 2H), 8.31 (dd, J=1.8, 4.8 Hz, 2H), 8.24 (s, 1H), 7.52 (s, 1H), 7.01 (s, 1H), 6.96 (s, 1H), 3.98 (s, 3H), 3.91 (s, 3H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 4-chloro-2,5-dimethoxyaniline | 0.290 mmol, 54 mg | ClC1=CC(=C(N)C=C1OC)OC | C8H10ClNO2
product | 4-(4-Chloro-2,5-dimethoxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.ClC1=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C1OC)OC | InChI=1S/C18H14ClF3N4O2.ClH/c1-27-13-8-12(14(28-2)7-11(13)19)24-16-9-15(18(20,21)22)25-17(26-16)10-3-5-23-6-4-10;/h3-9H,1-2H3,(H,24,25,26);1H
